US05654472
Synthesis of 1-chloro-2-(2,4-difluorophenyl)-2,3-epoxypropane (according to Reaction formula 3)
To 1.7 l of toluene solution of 433 g of 1,3-dichloro-2-(2,4-difluorophenyl)-2-propanol was added 870 ml of 20% aqueous solution of potassium hydroxide. After the resulting liquid was stirred at room temperature for 3 hours, the organic layer was separated therefrom. The aqueous layer was extracted twice with 1 l of ethyl acetate. The organic layers were combined and dried over anhydrous sodium sulfate. The resulting organic layer was filtered and the solvent was removed under reduced pressure. Thus obtained concentrate was distilled under reduced pressure to give 184 g of the desired compound.

reactant | 1,3-dichloro-2-(2,4-difluorophenyl)-2-propanol | 433 g | ClCC(CCl)(O)C1=C(C=C(C=C1)F)F | C9H8Cl2F2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | toluene | 1.7 l | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-2-(2,4-difluorophenyl)-2,3-epoxypropane | 184 g | ClCC1(CO1)C1=C(C=C(C=C1)F)F | C9H7ClF2O
